* C:\Users\Ian Diaz\Desktop\TP01\Ex2\Spice.asc
V1 N001 0 PULSE(-5 5 0 1n 1n 781.25n 1.5625u) AC 1 0
R1 N003 N002 3.68k
C1 N003 0 560p
R2 N002 N001 50
.tran 0 15.625u 7.8125u startup
.backanno
.end
