* C:\Users\Ian Diaz\Desktop\TP01\Ex2\Spice.asc
R1 N003 N002 3.68k
C1 N003 0 560p
R2 N002 N001 50
V1 N001 0 SINE(0 1 1K) AC 1
.ac dec 10 1 1meg
.backanno
.end
